US05495048
100 ml of a 10 percent aqueous sodium hydroxide solution are added to a solution of 34.5 g of dibromohexane, 9.9 g of 3-chloro-4-hydroxybenzophenone and 1.6 g of tetrabutylammonium bromide in 100 ml of methylene chloride. The heterogeneous mixture is stirred at room temperature overnight. The organic phase is separated, dried over sodium sulfate and evaporated. By chromatography of the residue on silica gel with hexane/ethyl acetate 7:3, there is obtained 4-[(6-bromohexyl)oxy]-3-chlorobenzophenone, m.p. 58° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | dibromohexane | 34.5 g | BrC(CCCCC)Br | C6H12Br2
reactant | 3-chloro-4-hydroxybenzophenone | 9.9 g | ClC=1C=C(C(=O)C2=CC=CC=C2)C=CC1O | C13H9ClO2
catalyst | tetrabutylammonium bromide | 1.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[(6-bromohexyl)oxy]-3-chlorobenzophenone | BrCCCCCCOC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)Cl | C19H20BrClO2
